US05536827
180.5 mg of BE-13793C (12,13-dihydro-1,11-dihydroxy-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-(6H)-dione) was dissolved in 137 ml of N,N-dimethylformamide (DMF), 510 mg of potassium carbonate was added, and 170 μl of benzyl bromide was added under ice cooling. The reaction solution was stirred at room temperature for 2 hours and, after addition of 200 ml of water, extracted with 200 ml of ethyl acetate, and the extract was dried over sodium sulfate and concentrated under reduced pressure to give 1,11-dibenzyloxy-12,13-dihydro-5H-indolo[ 2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (yield: 93.7%).

reactant | BE-13793C | 180.5 mg | C1=CC2=C(C(=C1)O)NC3=C4C(=C5C(=C23)C(=O)NC5=O)C6=C(N4)C(=CC=C6)O | C20H11N3O4
reactant | potassium carbonate | 510 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 170 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 137 ml | CN(C=O)C | C3H7NO
product | 1,11-dibenzyloxy-12,13-dihydro-5H-indolo[ 2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | yield: 93.7% | C(C1=CC=CC=C1)OC1=CC=CC2=C1NC1=C2C2=C(C=3C4=CC=CC(=C4NC13)OCC1=CC=CC=C1)C(NC2=O)=O | C34H23N3O4
